US07816371B2
a. (R)-2-(3-Fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-yl)acetamide
A round bottom flask was charged with (R)-2-(3-fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide (50.0 mg, 0.000114 mol), ethanol (6 mL, 0.1 mol) and palladium, 10% weight on charcoal (1.4 mg, 0.000011 mol) was added and the flask was evacuated and flushes with hydrogen. The evacuation and flushing was repeated two times and the reaction was stirred under an atmosphere of hydrogen (balloon) over night. The reaction mixture was then filtered over cellite and solvent removed under reduced pressure. The residue was then purified by flash chromatography to get the product as white solid.

reactant | (R)-2-(3-fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | 0.000114 mol, 50.0 mg | FC=1C=C(C=CC1C(F)(F)F)CC(=O)NC1=C2C=CN(C(C2=CC=C1C)=O)[C@@H](CO)C | C22H20F4N2O3
reactant | ethanol | 0.1 mol, 6 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(3-Fluoro-4-(trifluoromethyl)phenyl)-N-(2-(1-hydroxypropan-2-yl)-6-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-yl)acetamide | FC=1C=C(C=CC1C(F)(F)F)CC(=O)NC1=C2CCN(C(C2=CC=C1C)=O)[C@@H](CO)C | C22H22F4N2O3
